US07825238B2
a) 1-[(1,3-bis(N-tert-butoxycarbonyl-L-valyloxy)-2-propoxy)carbonyloxy]ethyl 3-cephem-4-carboxylate
A solution of 1,3-bis(N-tert-butoxycarbonyl-L-valyloxy)-2-propyl 1-iodoethyl carbonate (0.156 mmol) and cefotaxime sodium (67.8 mg, 0.142 mmol) in 3.2 mL dry N,N′-dimethylformamide was stirred under argon for 22 h. The reaction mixture was concentrated and subjected to column chromatography (silica, 2/1 petroleum ether-ethyl acetate, and then 20/1 CH2Cl2-methanol) to yield an oil enriched in the desired product. The oil was dissolved in 10 mL ethyl acetate, washed with water, dried, and concentrated. A second chromatography (silica, 40/1 CH2Cl2-methanol) gave the title compound (59.7 mg) as cream-colored solids.

reactant | 1,3-bis(N-tert-butoxycarbonyl-L-valyloxy)-2-propyl 1-iodoethyl carbonate | 0.156 mmol | C(OC(COC([C@@H](NC(=O)OC(C)(C)C)C(C)C)=O)COC([C@@H](NC(=O)OC(C)(C)C)C(C)C)=O)(OC(C)I)=O | C26H45IN2O11
reactant | cefotaxime sodium | 0.142 mmol, 67.8 mg | CC(=O)OCC1=C(N2[C@@H]([C@@H](C2=O)NC(=O)/C(=N\OC)/C3=CSC(=N3)N)SC1)C(=O)[O-].[Na+]
solvent | N,N′-dimethylformamide | 3.2 mL | CN(C)C=O | C3H7NO
product | 1-[(1,3-bis(N-tert-butoxycarbonyl-L-valyloxy)-2-propoxy)carbonyloxy]ethyl 3-cephem-4-carboxylate | S1CC=C(N2[C@H]1CC2=O)C(=O)OC(C)OC(=O)OC(COC([C@@H](NC(=O)OC(C)(C)C)C(C)C)=O)COC([C@@H](NC(=O)OC(C)(C)C)C(C)C)=O | C33H51N3O14S
